US08293744B2
Step 2: Preparation of 5-[(6-bromopyridin-3-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one:
Ethyl 1-[(6-bromopyridin-3-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate (120 mg, 0.296 mmol) was suspended in ethanol (15 mL), treated with hydrazine (1.00 mL, 31.9 mmol, 107 equiv) and placed into an oil bath preheated to 80° C. for 1 hour. The mixture was cooled to ambient temperature and concentrated in vacuo, providing the titled compound.

reactant | Ethyl 1-[(6-bromopyridin-3-yl)methyl]-4-thioxo-1,4-dihydropyrido[2,3-c]pyridazine-3-carboxylate | 0.296 mmol, 120 mg | BrC1=CC=C(C=N1)CN1N=C(C(C2=C1N=CC=C2)=S)C(=O)OCC | C16H13BrN4O2S
reactant | hydrazine | 31.9 mmol, 1.00 mL, 107 equiv | NN | H4N2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-[(6-bromopyridin-3-yl)methyl]-2,5-dihydro-3H-pyrazolo[4,3-c]pyrido[3,2-e]pyridazin-3-one | BrC1=CC=C(C=N1)CN1N=C2C(C3=C1N=CC=C3)=NNC2=O | C14H9BrN6O
